US07767702B2
4.27 g (25.03 mmol) of benzyl chloroformate are slowly added to 4 g (22.7 mmol) of 1-(4-aminophenyl)pyrrolidin-2-one and 3.6 ml (28.4 mmol) of N,N-dimethylaniline in 107 ml of tetrahydrofuran at −20° C. The mixture is stirred at −20° C. for 30 minutes and then allowed to reach room temperature. 0.5 l of ethyl acetate is added, and the organic phase is washed with 0.5 l of saturated NaCl solution. The removed organic phase is dried with MgSO4, and the solvent is evaporated in vacuo. The residue is triturated with diethyl ether and filtered off with suction. 5.2 g (73.8% of theory) of benzyl 4-(2-oxo-1-pyrrolidinyl)phenylcarbamate are obtained as pale beige crystals with a melting point of 174° C.

reactant | benzyl chloroformate | 25.03 mmol, 4.27 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | 1-(4-aminophenyl)pyrrolidin-2-one | 22.7 mmol, 4 g | NC1=CC=C(C=C1)N1C(CCC1)=O | C10H12N2O
reactant | N,N-dimethylaniline | 28.4 mmol, 3.6 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | ethyl acetate | 0.5 l | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 107 ml | O1CCCC1 | C4H8O
product | benzyl 4-(2-oxo-1-pyrrolidinyl)phenylcarbamate | 5.2 g, 73.8% | O=C1N(CCC1)C1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C18H18N2O3
